US08609710B2
[Step 1] Ethyl 1-(trans-4-methylcyclohexyl)-1H-imidazole-4-carboxylate
Ethyl 3-(dimethylamino)-2-isocyanoacrylate (Liebigs Annalen der Chemie, 1979, p. 1444) (1.52 g) was dissolved in trans-4-methylcyclohexylamine (3.07 g), and the solution was stirred at 70° C. for 4 hours. To the reaction solution, saturated aqueous ammonium chloride was added, and organic matter was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and filtered, and the solvent was distilled off under reduced pressure to obtain a crude product. This crude product was purified by silica gel column chromatography (eluting solvent: hexane/ethyl acetate=2/1-1/2) to obtain the title compound (1.90 g).

reactant | Ethyl 3-(dimethylamino)-2-isocyanoacrylate | 1.52 g | CN(C=C(C(=O)OCC)[N+]#[C-])C | C8H12N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | trans-4-methylcyclohexylamine | 3.07 g | C[C@@H]1CC[C@H](CC1)N | C7H15N
product | Ethyl 1-(trans-4-methylcyclohexyl)-1H-imidazole-4-carboxylate | 1.90 g | C[C@@H]1CC[C@H](CC1)N1C=NC(=C1)C(=O)OCC | C13H20N2O2
